* File: NAND2.pex.sp.pex
* Created: Thu May  8 20:21:40 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2%OUT 1 2 7 11 17 21 25 29 33 34 35
c51 35 0 1.76788e-20
c52 25 0 1.47748e-19
c53 11 0 2.70324e-20
c54 7 0 0.0059298f
r55 35 39 0.125306
r56 29 31 0.388606
r57 27 34 0.0371092
r58 27 29 0.570279
r59 25 39 1.7
r60 23 34 0.0371092
r61 23 25 0.582909
r62 22 33 0.00964403
r63 21 34 0.00964403
r64 21 22 1.21537
r65 17 19 0.388606
r66 15 33 0.0371092
r67 15 17 0.570279
r68 13 14 0.334384
r69 11 13 1.29114
r70 9 33 0.0371092
r71 9 14 0.442039
r72 7 11 10
r73 2 31 15
r74 2 29 10
r75 1 19 15
r76 1 17 10
.ends

.subckt PM_NAND2%VSS 2 10 12 13 18
c19 18 0 0.0142401f
c20 10 0 0.00325557f
c21 2 0 0.00230226f
r22 16 23 0.0188364
r23 16 18 1.13667
r24 13 23 0.0271748
r25 12 13 0.478797
r26 10 18 10
r27 2 23 30
.ends

.subckt PM_NAND2%VDD 2 9 13 18 26
r33 22 26 0.0291575
r34 18 21 0.388606
r35 16 26 0.016797
r36 16 21 1.28046
r37 13 22 0.155442
r38 9 21 15
r39 9 18 10
r40 2 26 30
.ends

.subckt PM_NAND2%A 1 2 6 14 15 18 23
c31 23 0 1.83691e-19
c32 18 0 1.78878e-19
c33 14 0 3.08746e-19
r34 23 27 0.152096
r35 18 27 1.7
r36 18 21 0.00502177
r37 14 21 25
r38 14 16 7.68531
r39 14 15 7.75092
r40 6 16 81.8205
r41 4 15 106.816
r42 2 6 46.5732
r43 1 4 27.3386
.ends

.subckt PM_NAND2%B 1 2 6 14 15 18 23
c34 23 0 1.68782e-19
c35 18 0 6.15717e-20
c36 15 0 1.26659e-19
c37 14 0 4.21729e-19
r38 23 27 0.153824
r39 18 27 1.7
r40 18 21 0.00485757
r41 14 21 25
r42 14 16 7.68531
r43 14 15 7.75092
r44 6 16 81.6252
r45 4 15 107.011
r46 2 6 46.5732
r47 1 4 27.3386
.ends

