* File: NAND2.pex.sp.pex
* Created: Sun May 11 15:35:03 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2%OUT 1 2 7 11 17 21 25 29 33 34 35
c51 25 0 1.47748e-19
c52 11 0 2.16119e-20
c53 7 0 0.0059298f
r54 35 39 0.125306
r55 29 31 0.388606
r56 27 34 0.0371092
r57 27 29 0.570279
r58 25 39 1.7
r59 23 34 0.0371092
r60 23 25 0.582909
r61 22 33 0.00964403
r62 21 34 0.00964403
r63 21 22 1.21537
r64 17 19 0.388606
r65 15 33 0.0371092
r66 15 17 0.570279
r67 13 14 0.334384
r68 11 13 1.29114
r69 9 33 0.0371092
r70 9 14 0.442039
r71 7 11 10
r72 2 31 15
r73 2 29 10
r74 1 19 15
r75 1 17 10
.ends

.subckt PM_NAND2%VSS 2 10 12 13 18
c19 18 0 0.0142401f
c20 10 0 0.00325557f
c21 2 0 0.00230226f
r22 16 23 0.0188364
r23 16 18 1.13667
r24 13 23 0.0271748
r25 12 13 0.478797
r26 10 18 10
r27 2 23 30
.ends

.subckt PM_NAND2%VDD 2 9 13 18 26
r33 22 26 0.0291575
r34 18 21 0.388606
r35 16 26 0.016797
r36 16 21 1.28046
r37 13 22 0.155442
r38 9 21 15
r39 9 18 10
r40 2 26 30
.ends

.subckt PM_NAND2%A 1 2 6 14 15 18 23
c33 18 0 1.37236e-19
c34 14 0 1.39964e-19
r35 23 27 0.152096
r36 18 27 1.7
r37 18 21 0.00502177
r38 14 21 25
r39 14 16 7.68531
r40 14 15 7.75092
r41 6 16 81.8205
r42 4 15 106.816
r43 2 6 46.5732
r44 1 4 27.3386
.ends

.subckt PM_NAND2%B 1 2 6 14 15 18 23
c36 18 0 5.61511e-20
c37 15 0 1.02697e-19
c38 14 0 2.38038e-19
r39 23 27 0.153824
r40 18 27 1.7
r41 18 21 0.00485757
r42 14 21 25
r43 14 16 7.68531
r44 14 15 7.75092
r45 6 16 81.6252
r46 4 15 107.011
r47 2 6 46.5732
r48 1 4 27.3386
.ends

